US06849622B2
An acetonitrile (7 ml) solution containing N-(tert-butoxycarbonyl)piperazine (700 mg), N-methyl-N-phenylcarbamoyl chloride (700 mg) and triethylamine (1.05 mL) was stirred at room temperature for 15 hours to undergo reaction, and the resulting compound was acid-treated with hydrochloric acid to obtain 1-(N-methyl-N-phenylaminocarbonyl)piperazine.hydrochloride.

reactant | acetonitrile | 7 ml | C(C)#N | C2H3N
reactant | N-(tert-butoxycarbonyl)piperazine | 700 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | N-methyl-N-phenylcarbamoyl chloride | 700 mg | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
reactant | hydrochloric acid | Cl | ClH
solvent | triethylamine | 1.05 mL | C(C)N(CC)CC | C6H15N
product | 1-(N-methyl-N-phenylaminocarbonyl)piperazine.hydrochloride | Cl.CN(C(=O)N1CCNCC1)C1=CC=CC=C1 | InChI=1S/C12H17N3O.ClH/c1-14(11-5-3-2-4-6-11)12(16)15-9-7-13-8-10-15;/h2-6,13H,7-10H2,1H3;1H
